US07323496B2
Synthesis of 3-(3,5-dimethoxyphenyl)-N,N-dimethyl-2-(4-{4-[2-(2-morpholin-4-yl-2-oxoethylcarbamoyl)-ethyl]-phenoxyl}-phenyl)-acrylamide (63)
Following the general procedure for conversion of carboxylic acids to amides mentioned above and using 2-amino-1-morpholin-4-yl-ethanone as amine, 3-(4-{4-[2-(3,5-dimethoxyphenyl)-1-dimethylcarbamoylvinyl]-phenoxy}-phenyl)-propionic acid, 38, was converted to 63.

reactant | 2-amino-1-morpholin-4-yl-ethanone | NCC(=O)N1CCOCC1 | C6H12N2O2
reactant | 3-(4-{4-[2-(3,5-dimethoxyphenyl)-1-dimethylcarbamoylvinyl]-phenoxy}-phenyl)-propionic acid | COC=1C=C(C=C(C1)OC)C=C(C(N(C)C)=O)C1=CC=C(OC2=CC=C(C=C2)CCC(=O)O)C=C1 | C28H29NO6
product | 3-(3,5-dimethoxyphenyl)-N,N-dimethyl-2-(4-{4-[2-(2-morpholin-4-yl-2-oxoethylcarbamoyl)-ethyl]-phenoxyl}-phenyl)-acrylamide | COC=1C=C(C=C(C1)OC)C=C(C(=O)N(C)C)C1=CC=C(C=C1)OC1=CC=C(C=C1)CCC(NCC(=O)N1CCOCC1)=O | C34H39N3O7
